US04423241
Preparation of (±)2-(2-Chloro-6-fluorobenzylideneaminooxy)propionic acid (Compound P)
A warm solution of 4.0 gm. (0.025 mole) of 2-chloro-6-fluorobenzaldehyde in 50 ml. of ethanol was stirred into a solution of 3.1 gm. (0.025 equiv.) of (±)2-aminooxypropionic acid hemihydrochloride and 2.1 gm. (0.026 equivs.) of anhyd. sodium acetate in 50 ml. water. After heating one-half hour on steam bath, the reaction mixture was evaporated to dryness and the residue was washed with water and dried in dessicator over P2O5. There were obtained 5.3 gm. of crude product melting at 98°-102° C. Recrystallization from isopropyl alcohol and n-heptane to obtain product melting at 105.5°-107.0° C.

reactant | 2-chloro-6-fluorobenzaldehyde | 0.025 mole | ClC1=C(C=O)C(=CC=C1)F | C7H4ClFO
reactant | ethanol | C(C)O | C2H6O
reactant | (±)2-aminooxypropionic acid hemihydrochloride | 0.025 equiv. | Cl.NOC(C(=O)O)C.NOC(C(=O)O)C
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | (±)2-(2-Chloro-6-fluorobenzylideneaminooxy)propionic acid | ClC1=C(C=NOC(C(=O)O)C)C(=CC=C1)F | C10H9ClFNO3
